US07351719B2
168a) 2-chloro-4-trifluoromethyl-benzylamine
A suspension of 1.000 g (4.865 mmol) 2-chloro-4-trifluoromethyl-benzonitrile and 100 mg Raney nickel in conc. methanolic ammonia was hydrogenated for 20 h at RT and 3 bar. The catalyst was filtered off and the filtrate was evaporated down i. vac.

reactant | 2-chloro-4-trifluoromethyl-benzonitrile | 4.865 mmol, 1.000 g | ClC1=C(C#N)C=CC(=C1)C(F)(F)F | C8H3ClF3N
catalyst | Raney nickel | 100 mg | [Ni] | Ni
solvent | ammonia | N | H3N
product | 2-chloro-4-trifluoromethyl-benzylamine | ClC1=C(CN)C=CC(=C1)C(F)(F)F | C8H7ClF3N
